US07875728B2
3-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]benzoic acid ethyl ester was prepared using 121 mg (0.5 mmol) of 3-(N′-dicyanomethylenehydrazino)benzoic acid ethyl ester, which was derived from 3-aminobenzoate (149 μL, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. Precipitate formed in the reaction tube approximately 10 minutes after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 58 mg (42%) of the compound as a light brown solid.

reactant | 3-(N′-dicyanomethylenehydrazino)benzoic acid ethyl ester | 0.5 mmol, 121 mg | C(C)OC(C1=CC(=CC=C1)NN=C(C#N)C#N)=O | C12H10N4O2
reactant | 3-aminobenzoate | 1.0 mmol, 149 μL | NC=1C=C(C(=O)[O-])C=CC1
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3-[N′-(3,5-diaminopyrazol-4-ylidene)hydrazino]benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)NN=C1C(=NN=C1N)N)=O | C12H14N6O2
